US04723002
(B) 2-Iodo-N-[3,4-bis(phenylmethoxy)phenyl]acetamide
A solution of 2-chloro-N-[3,4-bis(phenylmethoxy)phenyl]acetamide (8.98 g, 23.5 mmol) and sodium iodide (3.53 g, 23.5 mmol) in acetone (75 ml) was refluxed for two hours and allowed to stand overnight at room temperature. The reaction was filtered hot to remove the sodium iodide and a precipitate formed in the cold filtrate which was collected and washed with cold acetone to give, upon drying, 6.71 g (14.2 mmol) of the title compound. A second crop was obtained from cold acetone (1.0 g).

reactant | 2-chloro-N-[3,4-bis(phenylmethoxy)phenyl]acetamide | 23.5 mmol, 8.98 g | ClCC(=O)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H20ClNO3
reactant | sodium iodide | 23.5 mmol, 3.53 g | [I-].[Na+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2-Iodo-N-[3,4-bis(phenylmethoxy)phenyl]acetamide | 14.2 mmol, 6.71 g | ICC(=O)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H20INO3
